US08058300B2
Step 1: 2-(4-Bromo-benzoyl)-3-oxo-pentanoic acid methyl ester:
Prepared according to the procedure described in Example 1, Step 2 using 4-bromobenzoyl chloride and methyl 3-oxovalerate; sodium tert-butoxide was used in place of pyridine.

reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | methyl 3-oxovalerate | O=C(CC(=O)OC)CC | C6H10O3
reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
product | 2-(4-Bromo-benzoyl)-3-oxo-pentanoic acid methyl ester | COC(C(C(CC)=O)C(C1=CC=C(C=C1)Br)=O)=O | C13H13BrO4
